simulator lang=spectre
global 0

ahdl_include "../submission/start_gated_offset_search.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=2.5n period=10n width=5n rise=100p fall=100p
Vstart (start 0) vsource type=pwl wave=[0 0 9.5n 0 10n 0.9 60n 0.9]
Vout (vout 0) vsource type=pwl wave=[0 0.9 32n 0.9 32.1n 0.0 60n 0.0]
XDUT (clk vout start vinp vinn) start_gated_offset_search

tran tran stop=55n maxstep=25p
save clk vout start vinp vinn
